US05618975
a) 2-iodobenzene sulfonamide
2-aminobenzene sulfonamide (3.5 g) in conc. H2SO4, 98% (25 ml) are heated at 60° to give a clear solution. 20 g of ice is then added and the solution is cooled to 0° C. NaNO2 (1.45 g) in water (4 ml) is added dropwise very carefully without exceeding 5°-6° C. The reaction mixture is stirred at 5°-6° C. for 3 hours. A solution of potassium iodide (3.75 g) in H2O (25 ml) is then introduced dropwise and the obtained red mixture is stirred for 18 hours. H2O (50 ml) is added and the obtained precipitate is filtered, washed several times in water. The obtained solid is dissolved in ethyl acetate, washed once with 0.2N sodiumthiosulfate solution and twice with water, evaporated to dryness to give 4 g of a light yellow compound (62% yield).

reactant | 2-aminobenzene sulfonamide | 3.5 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | NaNO2 | 1.45 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 3.75 g | [I-].[K+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | 4 ml | O | H2O
solvent | H2O | 25 ml | O | H2O
solvent | H2O | 50 ml | O | H2O
product | 2-iodobenzene sulfonamide | 4 g, 62% yield | IC1=C(C=CC=C1)S(=O)(=O)N | C6H6INO2S
